US06579884B1
Synthesis of 8-(2,6-dimethyl-4-fluorobenyloxy)-3-chloro-2-methylimidazo[1,2-a]pyridine
To a solution of 8-(2,6-dimethyl-4-fluorobenzyloxy)-2-methylimidazo[1,2-a]pyridine (0.6 g, 2.1 mmol) in acetic acid (13 ml) was added dropwise 1.1 M Cl2 in acetic acid (2.2 ml, 2.43 mmol). The reaction mixture was stirred for 2 h. at room temperature and the solvent was evaporated under reduced pressure. The residue weas solved in methylene chloride and was washed with water. The organic layer was separated, dried and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel using methylene chloride:ethyl acetate (100:4) as eluent. Treating the residue with diethyl ether and filtration gave 0.3 g (45%) of the title compound.

reactant | 8-(2,6-dimethyl-4-fluorobenzyloxy)-2-methylimidazo[1,2-a]pyridine | 2.1 mmol, 0.6 g | CC1=C(COC=2C=3N(C=CC2)C=C(N3)C)C(=CC(=C1)F)C | C17H17FN2O
reactant | Cl2 | 1.1 M | ClCl | Cl2
solvent | acetic acid | 13 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 2.43 mmol, 2.2 ml | C(C)(=O)O | C2H4O2
product | 8-(2,6-dimethyl-4-fluorobenyloxy)-3-chloro-2-methylimidazo[1,2-a]pyridine | 0.3 g, 45% | CC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)Cl)C(=CC(=C1)F)C | C17H16ClFN2O
